US05194441
2-Phenyl-4-(pyrid-3-yl)-4-ethenyl-5-(2-chlorophenyl)-1,3-dioxolane
3 g (0.018 mol) of 3-(pyrid-3-yl)-4-(2-chlorophenyl)but-1-ene-3,4-diol were dissolved in 50 ml of benzaldehyde dimethyl acetal. 1 ml of concentrated H2SO4 was then added and the mixture was heated to 80°-90° C. The excess benzaldehyde dimethyl acetal was distilled off under reduced pressure, together with the resulting methanol. The crude product was dissolved in methylene chloride and the solution was neutralized with NaHCO3 solution. After the solvent had been separated off, the product was purified by chromatography.

reactant | 3-(pyrid-3-yl)-4-(2-chlorophenyl)but-1-ene-3,4-diol | 0.018 mol, 3 g | N1=CC(=CC=C1)C(C=C)(C(O)C1=C(C=CC=C1)Cl)O | C15H14ClNO2
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | benzaldehyde dimethyl acetal | 50 ml | COC(C1=CC=CC=C1)OC | C9H12O2
product | 2-Phenyl-4-(pyrid-3-yl)-4-ethenyl-5-(2-chlorophenyl)-1,3-dioxolane | C1(=CC=CC=C1)C1OC(C(O1)(C=C)C=1C=NC=CC1)C1=C(C=CC=C1)Cl | C22H18ClNO2
